US08426411B2
To a solution of ethyl 2-((3S,4R)-3-((tert-butyldimethylsilyloxy)methyl)-4-ethylcyclopentylidene)acetate (1.00 g, 3.06 mmol) in THF (20 mL) was added TBAF (1M in THF, 4.59 mL, 4.59 mmol). After 6 h, EtOAc and water were added. The organic layer was separated, concd in vacuo and purified by chromatography on silica gel eluting with EtOAc/heptane to provide ethyl 2-((3R,4S)-3-ethyl-4-(hydroxymethyl)cyclopentylidene)acetate (0.620 g, 95%) as an oil. LC/MS (Table 1, Method a) Rt=1.96, 2.08 min; MS m/z: 213 (M+H)+.

reactant | ethyl 2-((3S,4R)-3-((tert-butyldimethylsilyloxy)methyl)-4-ethylcyclopentylidene)acetate | 3.06 mmol, 1.00 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1CC(C[C@H]1CC)=CC(=O)OCC | C18H34O3Si
reactant | TBAF | 4.59 mmol, 1M, 4.59 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | ethyl 2-((3R,4S)-3-ethyl-4-(hydroxymethyl)cyclopentylidene)acetate | 0.620 g, 95% | C(C)[C@@H]1CC(C[C@@H]1CO)=CC(=O)OCC | C12H20O3
